US07067530B2
Under an atmosphere of nitrogen a 1M solution of DIBAL-H in toluene (10.5 ml, 10.5 mmol) was added dropwise at −70° C. over 20 min. to a stirred solution of 2-ethyl-3-(9H-fluoren-2-yl)-acrylic acid ethyl ester (1.54 g, 5.3 mmol) in dry THF (75 ml) and the mixture stirred for 45 min. Methanol (2 ml) was added, followed by 1N HCl and ethyl acetate. The aqueous phase was separated and further extracted with ethyl acetate. The combined organic phases were washed with water, dried (MgSO4), filtered and concentrated in vacuo yielding 1.3 g of 2-ethyl-3-(9H-fluoren-2-yl)-prop-2-en-1-ol.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | toluene | 10.5 mmol, 10.5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-ethyl-3-(9H-fluoren-2-yl)-acrylic acid ethyl ester | 5.3 mmol, 1.54 g | C(C)OC(C(=CC1=CC=2CC3=CC=CC=C3C2C=C1)CC)=O | C20H20O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Methanol | 2 ml | CO | CH4O
product | 2-ethyl-3-(9H-fluoren-2-yl)-prop-2-en-1-ol | 1.3 g | C(C)C(CO)=CC1=CC=2CC3=CC=CC=C3C2C=C1 | C18H18O
